US05451434
Example 2 (Comparison example): Preparation of Ba(TMHD)2 from anhydrous solvents.
37.8 g of barium hydroxide octahydrate (0.12 mole) were placed in a 250 ml round-bottomed flask. 50 ml of 2,2,6,6-tetramethyl-3,5-heptane dione (0.24 mole) were added in drops via a dropping funnel. Then 70 ml of xylene were added. The reaction mixture was then heated to 50° C. by means of an oil bath and stirred at this temperature for 10 hours. Then the oil bath temperature was adjusted to 60° C. and volatile constituents were distilled off under high vacuum.

reactant | barium hydroxide octahydrate | 0.12 mole, 37.8 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | 2,2,6,6-tetramethyl-3,5-heptane dione | 0.24 mole, 50 ml | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | xylene | 70 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ba(TMHD)2 | CC(/C(=C/C(=O)C(C)(C)C)/[O-])(C)C.CC(/C(=C/C(=O)C(C)(C)C)/[O-])(C)C.[Ba+2] | InChI=1S/2C11H20O2.Ba/c2*1-10(2,3)8(12)7-9(13)11(4,5)6;/h2*7,12H,1-6H3;/q;;+2/p-2/b2*8-7-;
